US05840911
1-(3-Amidinobenzylideneamino)-2-amino-4-phenyl-imidazole dihydrochloride
Analogously to Example 31, 3-amidinobenzaldehyde hydrochloride is reacted with 1,2-di-amino-4-phenyl-imidazole, yielding the title compound.

reactant | 3-amidinobenzaldehyde hydrochloride | Cl.C(N)(=N)C=1C=C(C=O)C=CC1
reactant | 1,2-di-amino-4-phenyl-imidazole | NN1C(=NC(=C1)C1=CC=CC=C1)N | C9H10N4
product | 1-(3-Amidinobenzylideneamino)-2-amino-4-phenyl-imidazole dihydrochloride | Cl.Cl.C(N)(=N)C=1C=C(C=NN2C(=NC(=C2)C2=CC=CC=C2)N)C=CC1 | InChI=1S/C17H16N6.2ClH/c18-16(19)14-8-4-5-12(9-14)10-21-23-11-15(22-17(23)20)13-6-2-1-3-7-13;;/h1-11H,(H3,18,19)(H2,20,22);2*1H
